US07638515B2
4-(3-Fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid ethyl ester
4.14 g (16.28 mmol) of 4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid is dissolved in 97 ml of ethanol, mixed with 1.79 ml of sulfuric acid and refluxed for four hours. The ethanol is drawn off in a rotary evaporator, and the residue is carefully mixed with saturated sodium bicarbonate solution until a pH of 9 is reached. It is extracted twice with 100 ml each of ethyl acetate, and the combined organic extracts are washed with water and then with brine. After the desiccant is dried and filtered off, and after the solvent is spun in, the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 4.16 g (90.6%) of the desired compound is isolated.

reactant | 4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid | 16.28 mmol, 4.14 g | FC=1C(=C(C=CC1)C(CC(C(=O)O)=O)(C)C)OC | C13H15FO4
reactant | sulfuric acid | 1.79 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 97 ml | C(C)O | C2H6O
product | 4-(3-Fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid ethyl ester | 4.16 g, 90.6% | C(C)OC(C(CC(C)(C)C1=C(C(=CC=C1)F)OC)=O)=O | C15H19FO4
